US06552017B1
7-fluoro-2,3-dihydro-1,5-benzothiazepin-4(5H)-one (76 mg, 0.38 mmol) dissolved in toluene (1 mL) and cooled to 0° C. in an ice bath. Red-Al (275 mL, 0.91mmol) was added and then the reaction allowed to warm to room temperature. The reaction was heated at reflux for 1.5 hours. 1 N sodium hydoxide was added slowly until pH>10, this was stirred for 10 minutes, extracted with dichloromethane (3×25 mL), washed with water, and dried (sodium sulfate). The concentrated organics were purified by preparative thin layer chromatography on silica gel and eluted with 50% ethyl acetate in hexanes to give 7-fluoro-2,3,4,5-tetrahydro-1,5-benzothiazepine (30.8 mg, 93%). 1H NMR (CDCl3, 300 MHz): δ 7.32 (t, 1H, J=7.5 Hz), 6.53-6.42 (m, 2H), 4.09 (s-broad, 1H), 3.31-3.27 (m, 2H), 2.83-2.79 (m, 2H), 2.11-2.04 (m, 2H) ppm.

reactant | 7-fluoro-2,3-dihydro-1,5-benzothiazepin-4(5H)-one | 0.38 mmol, 76 mg | FC=1C=CC2=C(NC(CCS2)=O)C1 | C9H8FNOS
reactant | Red-Al | 0.91mmol, 275 mL | COCCO[AlH2-]OCCOC.[Na+]
reactant | sodium hydoxide | 1 N | [OH-].[Na+]
solvent | toluene | 1 mL | C1(=CC=CC=C1)C | C7H8
product | 7-fluoro-2,3,4,5-tetrahydro-1,5-benzothiazepine | 30.8 mg, 93% | FC=1C=CC2=C(NCCCS2)C1 | C9H10FNS
